US08026260B2
Intermediate XXIV: 4-[1-(1,3-benzoxazol-2-yl)-2-methoxy-2-oxoethyl]benzoic acid (Scheme 8
To a solution of tert-butyl 4-[1-(1,3-benzoxazol-2-yl)-2-methoxy-2-oxoethyl]benzoate (90 mg, 0.25 mmol) in methylene chloride (2 mL) was added trifluoroacetic acid (0.5 mL) and the solution was stirred at ambient temperature for 1 hour. The reaction was evaporated to dryness to give the title compound as a clear oil. ESIMS calcd 312.1 (M++H), found 312.0 (M++M).

reactant | tert-butyl 4-[1-(1,3-benzoxazol-2-yl)-2-methoxy-2-oxoethyl]benzoate | 0.25 mmol, 90 mg | O1C(=NC2=C1C=CC=C2)C(C(=O)OC)C2=CC=C(C(=O)OC(C)(C)C)C=C2 | C21H21NO5
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-[1-(1,3-benzoxazol-2-yl)-2-methoxy-2-oxoethyl]benzoic acid | O1C(=NC2=C1C=CC=C2)C(C(=O)OC)C2=CC=C(C(=O)O)C=C2 | C17H13NO5
